US06562989B2
N-n-hexyl-2-methylaniline (Table 7, Entries 2 and 3)
According to the general procedure B, 2-chlorotoluene (73 mg, 0.58 mmol) reacted with n-hexylamine (80 μl, 0.61 mmol) using 1 mol % of Pd(dba)2, 2 mol % of Ph5FcP(t-Bu)2, and sodium tert-butoxide (59 mg, 0.60 mmol) in toluene at 70° C. for 8 h to give the title compound (102 mg, 92%) as a colorless oil: 1H-NMR (300 MHz, CDCl3): δ 7.20 (t, 1H, J=7.5 and 7.8 Hz), 7.12 (d, 1H, J=7.2 Hz), 6.70 (dd, 2H, J=7.5 Hz), 3.51 (bs, 1H), 3.22 (t, 2H, J=7.2 Hz), 2.21 (s, 3H), 1.74 (m, 2H), 1.48 (m, 2H), 1.41 (m, 2H). 13C{1H}-NMR (100 MHz, CDCl3): δ 146.35, 129.94, 127.08, 121.60, 116.53, 109.52, 43.91, 31.64, 29.54, 26.90, 22.62, 17.43, 14.03. GC/MS(EI): m/z 191 (M+), 121. Anal. Calcd for C13H21N: C, 81.62; H, 11.06; N, 7.32. Found: C, 81.52; H, 11.09; N, 7.37.

reactant | 2-chlorotoluene | 0.58 mmol, 73 mg | ClC1=C(C=CC=C1)C | C7H7Cl
reactant | n-hexylamine | 0.61 mmol, 80 μl | C(CCCCC)N | C6H15N
reactant | sodium tert-butoxide | 0.60 mmol, 59 mg | CC(C)([O-])C.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dba)2 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | N-n-hexyl-2-methylaniline | 102 mg, 92% | C(CCCCC)NC1=C(C=CC=C1)C | C13H21N
